US07276516B2
React 4-hydrazinopyridine HCl with phenylacetaldehyde under literature conditions (J Chem Soc, 1959, pg 3830). Instead of NH3, neutralize with 1N NaOH and extract with CHCl3. Dry organics over MgSO4 and concentrate on rotovap to give N-[2-Phenyl-eth-(Z)-ylidene]-N′-pyridin-4-yl-hydrazine (7.3 g, approx quantitative) as a crude thick oil that can be used without further purification. Mass Spectrum (m/e): 212.02 (MH+).

reactant | 4-hydrazinopyridine HCl | Cl.N(N)C1=CC=NC=C1
reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
reactant | NH3 | N | H3N
reactant | NaOH | 1N | [OH-].[Na+]
product | N-[2-Phenyl-eth-(Z)-ylidene]-N′-pyridin-4-yl-hydrazine | 7.3 g | C1(=CC=CC=C1)C\C=N/NC1=CC=NC=C1 | C13H13N3
